US07662825B2
N-[5-Bromo-3-(3-pyridinylmethoxy)-2-pyrazinyl]-2,3-dichlorobenzenesulphonamide
Prepared by the method of Example 31 using pyridine-3-methanol (0.44 g) and 2,3-dichloro-N-(3,5-dibromo-2-pyrazinyl)benzenesulphonamide (1.0 g). Yield 0.6 g.

reactant | pyridine-3-methanol | 0.44 g | N1=CC(=CC=C1)CO | C6H7NO
reactant | 2,3-dichloro-N-(3,5-dibromo-2-pyrazinyl)benzenesulphonamide | 1.0 g | ClC1=C(C=CC=C1Cl)S(=O)(=O)NC1=NC=C(N=C1Br)Br | C10H5Br2Cl2N3O2S
product | N-[5-Bromo-3-(3-pyridinylmethoxy)-2-pyrazinyl]-2,3-dichlorobenzenesulphonamide | BrC=1N=C(C(=NC1)NS(=O)(=O)C1=C(C(=CC=C1)Cl)Cl)OCC=1C=NC=CC1 | C16H11BrCl2N4O3S
